US05387710
A solution of 2-methoxy-8-nitro-6,7,8,9-tetrahydro-5H-benzocyclohepten-5-one (0.20 g) in acetic acid (2 ml) was hydrogenated at 4 atm hydrogen atmosphere over 10% palladium on carbon (0.20 g). After removing the catalyst, the pH of the solution was adjusted to 12 with sodium hydroxide solution and the solution was extracted with ethyl acetate. The extract was washed with brine, dried over potassium carbonate, and evaporated in vacuo to give 3-methoxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-amine (153 mg).

reactant | 2-methoxy-8-nitro-6,7,8,9-tetrahydro-5H-benzocyclohepten-5-one | 0.20 g | COC=1C=CC2=C(CC(CCC2=O)[N+](=O)[O-])C1 | C12H13NO4
reactant | hydrogen | [H][H] | H2
solvent | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
catalyst | palladium on carbon | 0.20 g | [Pd] | Pd
product | 3-methoxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-amine | 153 mg | COC1=CC2=C(CCCC(C2)N)C=C1 | C12H17NO
